### PR TITLE
[Merged by Bors] - feat(CategoryTheory): computing Ext-groups using an injective resolution

### PR DESCRIPTION
**Pull request by joelriou**
Given an injective resolution `R` of an object `Y` in an abelian category, we define a constructor for elements in `Ext X Y n` which takes as input "cocycles" given as morphisms `X ⟶ R.cocomplex.X n`, and we provide an API for this definition.

When the dual construction for projective resolutions will be done, it may be possible to remove the old `Ext` API.

---

- [x] depends on: #32814
- [x] depends on: #32728
- [x] depends on: #32461
- [x] depends on: #32442
- [x] depends on: #32439
- [x] depends on: #32003 
- [x] depends on: #32093
- [x] depends on: #32091
- [x] depends on: #32097
- [x] depends on: #31900
- [x] depends on: #31941
- [x] depends on: #31843

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/CategoryTheory/Abelian/Injective/Ext.lean [hunk 1]
```diff
@@ -0,0 +1,213 @@
...
+lemma extEquivCohomologyClass_symm_mk_hom [HasDerivedCategory C]
+    (x : Cocycle ((singleFunctor C 0).obj X) R.cochainComplex n) :
+    (R.extEquivCohomologyClass.symm (.mk x)).hom =
+      DerivedCategory.Q.map (Cocycle.equivHomShift.symm x) ≫
+        inv (DerivedCategory.Q.map (R.ι'⟦(n : ℤ)⟧')) ≫
+        (DerivedCategory.Q.commShiftIso (n : ℤ)).hom.app _ := by
+  simp only [Ext.hom, Ext.homEquiv, extEquivCohomologyClass, SmallShiftedHom.postcompEquiv,
+    Equiv.symm_trans_apply, Equiv.symm_symm, CohomologyClass.equivOfIsKInjective_apply,
+    Equiv.coe_fn_symm_mk, Functor.comp_obj]
+  refine (SmallShiftedHom.equiv_comp _ _ _ _ _).trans ?_
```
Comment (dagurtomas) [inline Mathlib/CategoryTheory/Abelian/Injective/Ext.lean]: There is some defeq abuse going on in this refine, because `erw [SmallShiftedHom.equiv_comp]` works and not `rw [SmallShiftedHom.equiv_comp]`. Looking at the file where `SmallShiftedHom.equiv_comp` lives, there are lots of `erw`, so maybe this is an opportunity to improve things there. 

I definitely want to get this PR merged, and I really don't want trivialities like this to stall progress, so for now it's maybe enough to change this `refine` to an `erw`, so that it at least gets tracked as technical debt.

File: Mathlib/CategoryTheory/Abelian/Injective/Ext.lean [hunk 2]
```diff
@@ -0,0 +1,213 @@
...
+
+variable {C : Type u} [Category.{v} C] [Abelian C] [HasExt.{w} C]
+  {X Y : C} (R : InjectiveResolution Y) {n : ℕ}
+
+instance : R.cochainComplex.IsKInjective := isKInjective_of_injective _ 0
+
+/-- If `R` is an injective resolution of `Y`, then `Ext X Y n` identify
+to the type of cohomology classes of degree `n` from `(singleFunctor C 0).obj X`
+to `R.cochainComplex`. -/
+noncomputable def extEquivCohomologyClass :
```
Comment (dagurtomas) [inline Mathlib/CategoryTheory/Abelian/Injective/Ext.lean]:
```suggestion
/-- If `R` is an injective resolution of `Y`, then `Ext X Y n` identifies
to the type of cohomology classes of degree `n` from `(singleFunctor C 0).obj X`
to `R.cochainComplex`. -/
noncomputable def extEquivCohomologyClass :
```

File: Mathlib/CategoryTheory/Abelian/Injective/Ext.lean [hunk 3]
```diff
@@ -0,0 +1,213 @@
...
+      R.extEquivCohomologyClass.symm x + R.extEquivCohomologyClass.symm y := by
+  have := HasDerivedCategory.standard C
+  obtain ⟨x, rfl⟩ := x.mk_surjective
+  obtain ⟨y, rfl⟩ := y.mk_surjective
+  ext
+  simp [← CohomologyClass.mk_add, extEquivCohomologyClass_symm_mk_hom]
+
+/-- If `R` is an injective resolution of `Y`, then `Ext X Y n` identify
+to the type of cohomology classes of degree `n` from `(singleFunctor C 0).obj X`
+to `R.cochainComplex`. -/
```
Comment (dagurtomas) [inline Mathlib/CategoryTheory/Abelian/Injective/Ext.lean]:
```suggestion
/-- If `R` is an injective resolution of `Y`, then `Ext X Y n` identifies
to the group of cohomology classes of degree `n` from `(singleFunctor C 0).obj X`
to `R.cochainComplex`. -/
```

**Review by dagurtomas — COMMENTED** [review]
I would like to see some discussion about the `refine`/`erw` issue but other than that LGTM

File: Mathlib/CategoryTheory/Abelian/Injective/Ext.lean (hunk 1 above)
Comment (joelriou) [reply Mathlib/CategoryTheory/Abelian/Injective/Ext.lean]: Instead of `erw`, I have used a relatively reasonable `change`. Apart from `refine/erw/change`, I do not think there is any simple way to use a plain `rw/simp` because it depends on a lot of definitional equalities.

The suggestions I made at https://github.com/leanprover-community/mathlib4/pull/31707#discussion_r2614312225 would allow to remove a certain number of `erw` in the `SmallShiftedHom` API though.

**Review by erdOne — COMMENTED** [review]
Should the simp normal form be `R.extEquivCohomologyClass` or `R.extAddEquivCohomologyClass`? I think one of them should be chosen.

**Comment by erdOne** [comment]
The linting step seems to be totally stuck. (c.f. https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/slow.20linting.20step.20CI.3F/with/565526831)

But this PR passed linting previously and also on my local machine so
Thanks!
maintainer delegate
